US05977178
Azetidine-3-carboxylic acid (10.0 g; 98.9 mmol) was dissolved in tetrahydrofuran (120 mL) and water (20 mL). An aqueous solution of sodium hydroxide (10 mL; 1 N) was added. Di-tert butyl dicarbonate (25.9 g; 118.7 mmol) was dissolved in tetrahydrofuran (80 mL) and added dropwise to the reaction mixture. The reaction mixture was stirred for 12 hours at room temperature and evaporated in vacuo. To the residue was added water (100 mL) and an aqueous solution of sodium hydroxide (100 mL; 1N) and the aqueous phase was extracted with diethyl ether (2×100 mL). The aqueous phase was acidified with an aqueous solution of sodium hydrogensulfate (1 M) until pH 2. Diethyl ether (200 mL) was added and the organic phase was dried (magnesium sulfate) and evaporated in vacuo to afford 20 g of 3-carboxyazetidine-1-carboxylic acid tert-butyl ester.

reactant | Azetidine-3-carboxylic acid | 98.9 mmol, 10.0 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | sodium hydroxide | 1 N, 10 mL | [OH-].[Na+]
reactant | Di-tert butyl dicarbonate | 118.7 mmol, 25.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 3-carboxyazetidine-1-carboxylic acid tert-butyl ester | 20 g | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
